US06355642B1
2a-(3-Bromopropyl)-2a, 3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
2a, 3,4,5-Tetrahydrobenz [cd]indole-2(1H) -one (1.0 g, 5.8 mmol) was dissolved in anhydrous N,N-dimethylformamide (40 ml). Thereto was added sodium hydride (230 mg, 5.8 mmol), and the resulting solution was stirred at 60° C. for 1 hour. The reaction solution was mixed with 1,3-dibromopropane (1.8 ml, 17 mmol) and again stirred for 2 hours. The solvent was evaporated under a reduced pressure, and the thus obtained residue was mixed with ethyl acetate and water. The reaction product was extracted with ethyl acetate, washed with saturated brine and dried with anhydrous sodium sulfate. Then the compound obtained by the evaporation of the solvent under a reduced pressure was separated and purified by a silica gel column chromatography to obtain 150 mg of the title compound (0.51 mmol, 8.8% in yield).

reactant | 2a, 3,4,5-Tetrahydrobenz [cd]indole-2(1H) -one | 5.8 mmol, 1.0 g | N1C(C2C=3C(=CC=CC13)CCC2)=O | C11H11NO
reactant | sodium hydride | 5.8 mmol, 230 mg | [H-].[Na+]
reactant | 1,3-dibromopropane | 17 mmol, 1.8 ml | BrCCCBr | C3H6Br2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2a-(3-Bromopropyl)-2a, 3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.51 mmol, 150 mg, 8.8% | BrCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C14H16BrNO
